US08703941B2
Into a 100-mL round-bottom flask, was placed a solution of tert-butyl N-methyl-N-(4-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yloxy]cyclohexyl)carbamate (450 mg, 1.12 mmol, 1.00 equiv) in dichloromethane (50 mL), hydrochloric acid (1.0 mL, 12 M) was added and the resulting solution was stirred for 3 h at room temperature. The resulting mixture was concentrated under vacuum to provide N-methyl-4-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yloxy]cyclohexan-1-amine hydrochloride (350 mg 92%) as a white solid.

reactant | tert-butyl N-methyl-N-(4-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yloxy]cyclohexyl)carbamate | 1.12 mmol, 450 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)C1CCC(CC1)OC=1N=CN=C2SC=3CCCC3C12 | C21H29N3O3S
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 12 M, 1.0 mL | Cl | ClH
product | N-methyl-4-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yloxy]cyclohexan-1-amine hydrochloride | 350 mg, 92% | Cl.CNC1CCC(CC1)OC=1N=CN=C2SC=3CCCC3C12 | InChI=1S/C16H21N3OS.ClH/c1-17-10-5-7-11(8-6-10)20-15-14-12-3-2-4-13(12)21-16(14)19-9-18-15;/h9-11,17H,2-8H2,1H3;1H
